US04833160
N-(2-dimethylaminoethyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-pyrrolidone
500 mg of 3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-pyrrolidone was dissolved in 5 ml of dimethylformamide and 0.2 g of sodium hydride and 0.2 g of 2-dimethylaminoethyl chloride were successively added thereto under ice-cooling. Then the obtained mixture was allowed to react for one hour at room temperature. The reaction mixture was extracted with ethyl acetate, washed with water followed by a saturated saline solution and dried over anhydrous magnesium sulfate. After distilling the ethyl acetate off, the residue was purified by column chromatography with the use of silica gel and benzene/acetone and recrystallized from ethyl acetate/hexane to give 300 mg of the title compound.

reactant | 3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-pyrrolidone | 500 mg | C(C)(C)(C)C=1C=C(C=C2C(NCC2)=O)C=C(C1O)C(C)(C)C | C19H27NO2
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride | 0.2 g | CN(CCCl)C | C4H10ClN
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(2-dimethylaminoethyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-pyrrolidone | 300 mg | CN(CCN1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C | C23H36N2O2
